US06482841B1
A) 4-(3-Cyanophenyl)-2,6-dimethyl 1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester
A solution of 30 g (0.13 mol) of methyl 3-cyanobenzylideneacetoacetate and 24.24 g (0.13 mol) of (tetrahydrofuran-2-ylmethyl)-3-aminocrotonate in 130 ml of abs. ethanol was refluxed with stirring, in the absence of light, along 8 hours. The reaction mixture was then cooled to −10° C., and the product was obtained as a yellow solid (mp 127-9° C., EtOH) with a yield of 79%.

reactant | methyl 3-cyanobenzylideneacetoacetate | 0.13 mol, 30 g | C(#N)C=1C=C(C=CC(CC(=O)OC)=O)C=CC1 | C13H11NO3
reactant | (tetrahydrofuran-2-ylmethyl)-3-aminocrotonate | 0.13 mol, 24.24 g | O1C(CCC1)COC(\C=C(\C)/N)=O | C9H15NO3
solvent | EtOH | CCO | C2H6O
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-Cyanophenyl)-2,6-dimethyl 1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | yield of 79% | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)C#N | C22H24N2O5
